US08252833B2
{4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetic acid
To ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate (0.045 g, 0.096 mml) was added acetic acid (3 ml) and 2N hydrochloric acid (3 ml). This was heated to 100° C. for 1 hour. Heating was stopped and the reaction was cooled to room temperature, water added and the resulting yellow solid collected by filtration and dried in the vac oven. This was purified by MDAP (Shallow gradient). The clean fraction was evaporated down to give the title compound as a clear glass (0.018 g, 0.04 mmol) LC/MS: Rt=3.16, [MH]+ 442.

reactant | ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate | 0.045 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1F)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H25F2NO5
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2N, 3 ml | Cl | ClH
solvent | water | O | H2O
product | {4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetic acid | 0.04 mmol, 0.018 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1F)CC(=O)O)F)=O)OCC)C=CC=C2 | C24H21F2NO5
